US09079866B2
5-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)pyrimidine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C20H14FN5O, 359.12; m/z found, 360.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.58 (d, J=4.8, 2H), 8.43 (d, J=1.4, 2H), 7.58-7.46 (m, 3H), 7.42-7.27 (m, 4H), 7.20 (t, J=4.8, 1H), 6.88 (s, 2H).

reactant | 2-(2-bromophenoxy)pyrimidine | BrC1=C(OC2=NC=CC=N2)C=CC=C1 | C10H7BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)OC1=NC=CC=N1 | C20H14FN5O
